US07601716B2
1-(2,5-Difluorobenzenesulfonyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (100 mg) was dissolved in anhydrous pyridine. 2,5-difluorobenzene sulfonyl chloride (1.0 eq) was added and the mixture stirred at room temperature for 16 hours. The reaction mixture was concentrated and purified by column chromatography to give the title compound as a pale yellow solid (13% yield). M.p. 187-188° C., LCMS: m/z=437.73 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 3.29-3.33 (m, 2H), 3.83 (t, J=4.8 Hz, 2H), 5.08 (bs, 1H), 7.11-7.19 (m, 1H), 7.26-7.33 (m, 1H), 7.58-7.63 (m, 1H), 7.96 (d, J=1.5 Hz, 1H), 8.03 (d, J=1.8 Hz, 1H).

reactant | 7-Iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 100 mg | IC1=CC2=C(NCCN2)N=C1 | C7H8IN3
reactant | 2,5-difluorobenzene sulfonyl chloride | 1.0 eq | FC1=C(C=C(C=C1)F)S(=O)(=O)Cl | C6H3ClF2O2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 1-(2,5-Difluorobenzenesulfonyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 13% yield | FC1=C(C=C(C=C1)F)S(=O)(=O)N1C2=C(NCC1)N=CC(=C2)I | C13H10F2IN3O2S
